US07008957B2
9c) (S)-2-tert-Butoxycarbonylamino-2-(tert-butyldimethylsilanyloxymethyl)-pent-4-enoic acid
1.3 g of (S)-2-tert-butoxycarbonylamino-2-hydroxymethylpent-4-enoic acid were dissolved in 10 ml of dimethylformamide. 1.44 g of imidazole and 1.7 g of tert-butyl-dimethylsilyl chloride were added thereto. The mixture was stirred at room temperature for 14 h and then partitioned between 150 ml of water and 200 ml of diethyl ether. The aqueous phase was extracted twice with 100 ml of diethyl ether each time, and the combined organic phases were dried with MgSO4. The solvents were removed in vacuo and the residue was taken up in 20 ml of THF and 60 ml of methanol. 11 ml of a 1 M potassium carbonate solution were added, and the mixture was stirred at room temperature for 2 h. Then 150 ml of a saturated sodium chloride solution were added, and the pH of the solution was adjusted to 2 with 1 M HCL solution. The aqueous phase was extracted 3 times with 100 ml of ethyl acetate each time, and the combined organic phases were dried with MgSO4. The solvents were removed in vacuo, and the crude product was employed without further purification in the next reaction.

reactant | (S)-2-tert-butoxycarbonylamino-2-hydroxymethylpent-4-enoic acid | 1.3 g | C(C)(C)(C)OC(=O)N[C@@](C(=O)O)(CC=C)CO | C11H19NO5
reactant | imidazole | 1.44 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl-dimethylsilyl chloride | 1.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-2-tert-Butoxycarbonylamino-2-(tert-butyldimethylsilanyloxymethyl)-pent-4-enoic acid | C(C)(C)(C)OC(=O)N[C@@](C(=O)O)(CC=C)CO[Si](C)(C)C(C)(C)C | C17H33NO5Si
